US06525049B2
To a solution of N-(4-chlorobenzyl)-4-hydroxy-6-(hydroxymethyl)-8-iodo-3-quinolinecarboxamide (0.36 g), DMAP (0.016 g) and collidine (0.12 mL) in 13 mL DMF at 0° C. is added methanesulfonyl chloride (0.065 mL). The solution is allowed to warm to room temperature and is stirred overnight. Morpholine (0.67 mL) is then added and the solution is stirred at room temperature overnight. The mixture is poured into water. The resulting solid is collected and dried. The crude product is adsorbed onto silica and chromatographed (Biotage flash 40S, eluant 1% MeOH/CH2Cl2, then 2% MeOH/CH2Cl2). Product containing fractions are combined and concentrated to yield 0.322 g (78%) of N-(4-chlorobenzyl)-4-hydroxy-8-iodo-6-(4-morpholinylmethyl)-3-quinolinecarboxamide, m.p. 230-233° C.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-(hydroxymethyl)-8-iodo-3-quinolinecarboxamide | 0.36 g | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CO)I)C=C1 | C18H14ClIN2O3
reactant | collidine | 0.12 mL | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | methanesulfonyl chloride | 0.065 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | Morpholine | 0.67 mL | N1CCOCC1 | C4H9NO
catalyst | DMAP | 0.016 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-(4-chlorobenzyl)-4-hydroxy-8-iodo-6-(4-morpholinylmethyl)-3-quinolinecarboxamide | 0.322 g, 78% | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CN2CCOCC2)I)C=C1 | C22H21ClIN3O3
